US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-trifluoromethyl-phenyl sulfonylchloride were reacted, followed by treatment with diethylamine to give trans N-[4-(5-Diethylamino-pentyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide. MS: 463 (MH+).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-trifluoromethyl-phenyl sulfonylchloride | FC(C1=CC=C(C=C1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
reactant | diethylamine | C(C)NCC | C4H11N
product | trans N-[4-(5-Diethylamino-pentyl)-cyclohexyl]-N-methyl-4-trifluoromethyl-benzenesulfonamide | C(C)N(CCCCC[C@@H]1CC[C@H](CC1)N(S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C)CC | C23H37F3N2O2S
